US07601844B2
(R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one (500 mg, 1.33 mmol), triethylamine (0.371 mL, 2.66 mmol) and methylene chloride (10 mL) were mixed at 0° C. under nitrogen then a methylene chloride solution of phenyl carbonochloridate (209 mg, 1.33 mmol) was added dropwise via an addition funnel. The reaction was stirred for 1 hour, diluted with EtOAc, and washed consecutively with 1N HCl and sat'd sodium bicarbonate. The organic layer was dried over sodium sulfate and concentrated in vacuo to give a white glass which was purified over silica gel (3:1 to 1:1 hexanes/EtOAc) to obtain phenyl (R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate (365 mg, 0.795 mmol, 59% yield) as a white glass. MS found: (M+H)+=459.32.

reactant | (R)-2-amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one | 1.33 mmol, 500 mg | N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C | C18H27ClN2O2
reactant | triethylamine | 2.66 mmol, 0.371 mL | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | phenyl carbonochloridate | 1.33 mmol, 209 mg | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | phenyl (R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 0.795 mmol, 365 mg, 59% yield | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC(OC1=CC=CC=C1)=O)=O)(C)C)O | C25H31ClN2O4
